US04673746
A mixture of 5.32 g of E-4'-chloro-2-hydroxy-4-methoxybenzophenone-O-acetyl oxime, 3.45 g of potassium carbonate and 50 ml of 2-butanone is heated under reflux at 80° C. for 2 hr. The reaction mixture is poured into water/ice. The precipitate is filtered, dried, and recrystallized from toluene/ether to give 3-(4-chlorophenyl)-6-methoxy-1,2-benzisoxazole, mp 148°-9° C.

reactant | E-4'-chloro-2-hydroxy-4-methoxybenzophenone-O-acetyl oxime | 5.32 g | C(C)(=O)O\N=C(\C1=C(C=C(C=C1)OC)O)/C1=CC=C(C=C1)Cl | C16H14ClNO4
reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 3-(4-chlorophenyl)-6-methoxy-1,2-benzisoxazole | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OC | C14H10ClNO2
